US04476308
Preparation of (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide
1.2 ml of ethyl chloroformate are placed in 12 ml of chloroform, whereupon there are added dropwise at -30° within 30 minutes 2.0 g of (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetic acid and 1.74 ml of triethylamine dissolved in 50 ml of chloroform. After stirring at a temperature between -2° and -10° for 12 minutes, 2.07 g of 94.7% cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine dissolved in 10 ml of chloroform are added dropwise. The mixture is left to stand at room temperature overnight. Thereupon, the mixture is evaporated and the residue (6 g) is chromatographed on 120 g of aluminum oxide (activity grade III, neutral). The (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide which is eluted with acetonitrile and ethanol has a melting point of 128°-130° after repeated chromatography on aluminum oxide and recrystallization from ethyl acetate.

reactant | ethyl chloroformate | 1.2 ml | ClC(=O)OCC | C3H5ClO2
reactant | (R/S)-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetic acid | 2.0 g | OC1C(N(CC1)CC(=O)O)=O | C6H9NO4
reactant | triethylamine | 1.74 ml | C(C)N(CC)CC | C6H15N
reactant | cis-2-(2,6-dimethyl-1-piperidinyl)ethylamine | 2.07 g | C[C@@H]1N([C@@H](CCC1)C)CCN | C9H20N2
solvent | chloroform | 12 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | (R/S)-cis-N-[2-(2,6-dimethyl-1-piperidinyl)ethyl]-2-(3-hydroxy-2-oxo-1-pyrrolidinyl)acetamide | C[C@@H]1N([C@@H](CCC1)C)CCNC(CN1C(C(CC1)O)=O)=O | C15H27N3O3
